US07741341B2
175.0 mg (0.46 mmol) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester were added to a solution of 19.6 mg (0.82 mmol) LiOH in 6 mL THF and 2 mL H2O. The reaction mixture was stirred for 2 h at 60° C., cooled to room temperature and acidified (pH=2) by the addition of a half concentrated HCl-solution. The precipitate was filtered off and washed with water to give pure 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b] pyridine-2-carboxylic acid as a brown crystalline solid.

reactant | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester | 0.46 mmol, 175.0 mg | COC(=O)C1=NC=2C(=NC=CC2)N1CC1=NOC(=C1)C=1SC(=CC1)Cl | C16H11ClN4O3S
reactant | LiOH | 0.82 mmol, 19.6 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b] pyridine-2-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC=2C1=NC=CC2)C(=O)O | C15H9ClN4O3S
